US05525722
A process for producing bicozamycin benzoate which comprises reacting bicozamycin with benzoic anhydride in the presence of 4-dimethylaminopyridine to yield bicozamycin benzoate.

reactant | bicozamycin | C[C@](CO)([C@@H]([C@]12C(=O)N[C@](C(=C)CCO1)(C(=O)N2)O)O)O | C12H18N2O7
reactant | benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | bicozamycin benzoate | C[C@@](COC(=O)C1=CC=CC=C1)([C@@H]([C@]23C(=O)N[C@@](C(=C)CCO2)(C(=O)N3)O)O)O | C19H22N2O8
